*****************************************************************
* NXP SI2304DS
*
* Polarity N-Channel
* Ratings 30V/7.600000E-002OHMS/1.7A
*
* Date Created Thu Apr 19 06:31:03 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

* added for compatibility (matthschw @ 04.10.22)
simulator lang=espice

.SUBCKT SI2304DS DRAIN GATE SOURCE

LD DRAIN 5 4e-10
RLD2 DRAIN 5 1.00530964914873
RLD1 5 4 0.0023
LG GATE 1 7.97740315722523e-10
RLG GATE 1 2.00494009227702
LS SOURCE 8 6.94325122020549e-10
RLS2 SOURCE 8 1.74502936203407
RLS1 8 7 0.00952211428140778

RDS 7 4 3000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0408969766276831 TC=0.00464827672211182,2.47227840906323E-05
RBD 9 4 0.0279781624816791 TC=0.00464827672211182,2.47227840906323E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 1000000000
CGS 2 6 1.157e-10
RG 1 2 1.97713365715578

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	172.8
+ -12	171.5
+ -10	171
+ -5	169.1
+ -4	169.3
+ -3	170.5
+ -2	275.8
+ -1	247.7
+ -0.5	229.5
+ -0.2	219
+ -0.1	213.4
+ 0	204.15
+ 0.1	195.9
+ 0.2	185.2
+ 0.5	165.8
+ 1	133.1
+ 2	104
+ 5	73
+ 10	55.3
+ 12	51.3
+ 20	41.5
+ 25	37.9
+ 30	35.3



.MODEL MINT NMOS(Vto=2.55 Kp=5.815550e+000 Nfs=1160000000000 Eta=100
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=2000)

.MODEL DBD D(Bv=38.6 Ibv=1.000000E-005 Rs=1E-6 Is=1.53489332570028e-13
+ N=1 M=0.44 VJ=0.5 Fc=0.5 Cjo=1.097e-10 Tt=1.85e-08)

.ENDS

